US04563409
The coupling component used in this Example was obtained by reacting methyl 2-hydroxy-3-naphthoate with dimethylamino propylamine in toluene to obtain N,N-dimethyl-N-3-(3-hydroxy-2-naphthamido)propylamine, and converting the amide compound isolated by filtration, with dimethylsufuric acid in methanol, to a quaternary ammonium form. Further, the amide compound may also be readily prepared via 2-hydroxy-3-napthoic acid chloride.

reactant | methyl 2-hydroxy-3-naphthoate | OC1=CC2=CC=CC=C2C=C1C(=O)OC | C12H10O3
reactant | dimethylamino propylamine | CN(C)CCCN | C5H14N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N,N-dimethyl-N-3-(3-hydroxy-2-naphthamido)propylamine | CN(CCCNC(=O)C1=CC2=CC=CC=C2C=C1O)C | C16H20N2O2
